US06632909B2
The preparation is carried out analogously to Example 1 from 0.94 g (4.00 mmol) of 3(E)-(3,4-diethoxyphenylacrylic acid and 1.10 g (4.40 mmol) of 11-bromo-1-undecanol and, after chromatography over silica gel using toluene/ethyl acetate, gives 11-hydroxyundecyl 3(E)-(3,4-diethoxyphenyl)acrylate.

reactant | 3,4-diethoxyphenylacrylic acid | C(C)OC=1C=C(C=CC1OCC)C(C(=O)O)=C | C13H16O4
reactant | 11-bromo-1-undecanol | 4.40 mmol, 1.10 g | BrCCCCCCCCCCCO | C11H23BrO
reactant | toluene ethyl acetate | C1(=CC=CC=C1)C.C(C)(=O)OCC
product | 11-hydroxyundecyl 3(E)-(3,4-diethoxyphenyl)acrylate | C(C)OC=1C=C(C=CC1OCC)/C=C/C(=O)OCCCCCCCCCCCO | C24H38O5
